US07674795B2
Carry out the procedure as in Example 6, starting from 1.30 g of 4-(3H-imidazo[4,5-b]pyridin-2-yl)-9H-fluoren-9-one oxime (Z,E), obtained in the preceding stage, and 2.45 mg of Raney Nickel in 65 ml of ethanol and 65 ml of tetrahydrofuran for 5 hours at 60° C. under a hydrogen pressure of 1 bar. After purification by making a paste in diisopropyl ether, we obtain 1.06 g of 4-(3H-imidazo[4,5-b]pyridin-2-yl)-9H-fluoren-9(R,S)-ylamine, in the form of a white powder, with the following characteristics:

reactant | 4-(3H-imidazo[4,5-b]pyridin-2-yl)-9H-fluoren-9-one oxime | 1.30 g | N1=C(NC2=NC=CC=C21)C2=CC=CC=1C(C3=CC=CC=C3C21)=NO | C19H12N4O
catalyst | Raney Nickel | 2.45 mg | [Ni] | Ni
solvent | ethanol | 65 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
product | 4-(3H-imidazo[4,5-b]pyridin-2-yl)-9H-fluoren-9(R,S)-ylamine | 1.06 g | N1=C(NC2=NC=CC=C21)C2=CC=CC=1C(C3=CC=CC=C3C21)N | C19H14N4
